US04178459
p-Menth-3-oyl chloride (3.0 g.) was reacted with isopropanolamine (3.0 g.) according to the procedure of Example 3. The product, N-(2-hydroxy-n-propyl)-p-menthane-3-carboxamide, was obtained as a viscous oil, boiling point: 184°/0.1 mm.

reactant | p-Menth-3-oyl chloride | 3.0 g | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
reactant | isopropanolamine | 3.0 g | CC(CN)O | C3H9NO
product | N-(2-hydroxy-n-propyl)-p-menthane-3-carboxamide | OC(CNC(=O)C1CC(CCC1C(C)C)C)C | C14H27NO2
